US07002037B2
f) Preparation of 3-[4-(benzyloxy)Phenyl]-2-ethoxy-N-[(1R)-2-hydroxy-1-phenylethyl]propanamide
3-[4-(Benzyloxy)phenyl]-2-ethoxypropanoic acid (30.6 kg, 88 mol) and DMAP (12.9 kg) were dissolved in CH2CI2 (192 L) and cooled to 0° C. To the clear solution EDC×HCl (20.2 kg) was added in 10 minutes. In 18 minutes a solution of (2R)-2-amino-2-phenyl-1-ethanol (14.5 kg, 105.6 mol) in CH2CI2 (60 L) was added, keeping the temperature below 2° C. The reaction mixture was kept at 0° C. for 2 hours and then heated to reflux for ca. 3 hours. The solvent was then distilled off (110 L). EtOAc (110 L) was added and the temperature lowered to 10° C. Over 30 min 1M H2SO4 (110 L, 110 mol) was added, the phases separated and the organic phase extracted with H2SO4 (110 L, 110 mol). To the combined organic phases, 110 L EtOAc and 1 M NaOH (110 L, 110 mol) were added at 10° C. (pH 10). The phases were separated and the organic phase washed with saturated NaCl solution.

reactant | 3-[4-(Benzyloxy)phenyl]-2-ethoxypropanoic acid | 88 mol, 30.6 kg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)OCC | C18H20O4
reactant | HCl | 20.2 kg | Cl | ClH
reactant | (2R)-2-amino-2-phenyl-1-ethanol | 105.6 mol, 14.5 kg | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | H2SO4 | 110 mol, 1M, 110 L | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 110 mol, 110 L | OS(=O)(=O)O | H2O4S
reactant | NaOH | 110 mol, 1 M, 110 L | [OH-].[Na+]
catalyst | DMAP | 12.9 kg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 110 L | CCOC(=O)C | C4H8O2
solvent | EDC
product | 3-[4-(benzyloxy)Phenyl]-2-ethoxy-N-[(1R)-2-hydroxy-1-phenylethyl]propanamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)N[C@@H](CO)C1=CC=CC=C1)OCC | C26H29NO4
